US04353904
II. ortho-(5-Methyl-1,3,4-oxadiazol-2-yl)-phenol
90 g (0.6 mole) of salicylic acid hydrazide and 388.8 g (2.4 moles) of triethyl orthoacetate in 500 ml of n-propanol are refluxed for 84 hours. When the mixture has cooled, the precipitate is filtered off and recrystallized from a mixture of toluene and petroleum ether. 47 g of colorless crystals (26.7% of theory) are obtained; melting point 74°-76° C.

reactant | salicylic acid hydrazide | 0.6 mole, 90 g | C(C=1C(O)=CC=CC1)(=O)NN | C7H8N2O2
reactant | triethyl orthoacetate | 2.4 moles, 388.8 g | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | n-propanol | 500 ml | C(CC)O | C3H8O
product | ortho-(5-Methyl-1,3,4-oxadiazol-2-yl)-phenol | 47 g, 26.7% | CC1=NN=C(O1)C1=C(C=CC=C1)O | C9H8N2O2
